US04826837
4-Hydroxy-cinnoline-3-carboxylic acid (8.8 g) is dissolved in dichloromethane (600 ml) in the presence of triethylamine (5.6 g). To this solution ethyl chloroformate (6 g) diluted with dichloromethane (50 ml) is added dropwise under stirring at a temperature varying between 0° C. and about 5° C. The mixture is allowed to react at 0°-5° C. for 1 hour, then 2-methylamino-pyridine (4.55 g) is added. The reaction mixture is kept at 0°-5° C. for 1 hour, then at room temperature for 2 hours, under stirring. The organic solution is washed with 2.5% NaHCO3 and water, then is evaporated to dryness in vacuo. The residue is purified over a SiO2 column using ethyl acetate, then ethylacetate-methanol=95:5 as eluents. Crystallization from ethanol yields 1.65 g of 4-hydroxy-N-methyl-N-(2-pyridyl)-cinnoline-3-carboxamide, m.p. 237°-239° C., NMR (DMSO d6) δ ppm: 3.43 (s) (3H, CH3), 7.0-8.3 (m) (8H, phenyl and pyridyl protons).

reactant | 4-Hydroxy-cinnoline-3-carboxylic acid | 8.8 g | OC1=C(N=NC2=CC=CC=C12)C(=O)O | C9H6N2O3
reactant | triethylamine | 5.6 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 6 g | ClC(=O)OCC | C3H5ClO2
reactant | 2-methylamino-pyridine | 4.55 g | CNC1=NC=CC=C1 | C6H8N2
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-hydroxy-N-methyl-N-(2-pyridyl)-cinnoline-3-carboxamide | 1.65 g | OC1=C(N=NC2=CC=CC=C12)C(=O)N(C1=NC=CC=C1)C | C15H12N4O2
